US07528173B2
To a solution of 1-(benzyloxycarbonylamino)-2-methylpropyl-phosphonous acid ethyl ester (6.2 g, 20.7 mmol) in 150 ml CH2Cl2 was added DIEA (6.5 mL, 47.5 mmol). The mixture solution was cooled down to 0° C. over an ice-water bath. TMSCI (5.5 mL, 42.0 mmol) was added dropwise under N2. The reaction mixture was stirred at ambient temperature for 2 hours, then cooled to 0° C. again. A solution of 2-(3-(t-butoxycarbonylamino)methylphenyl)-propenoic acid methyl ester (6.7 g, 23.0 mmol) in 15 mL CH2Cl2 was added to the reaction mixture. The resulting reaction mixture was stirred at ambient temperature for 18 hours. The reaction was quenched by 10 mL MeOH, then concentrated in vacuo, and the residue was taken up into 300 mL ethyl acetate. The organic phase was washed with 2 N NaHSO4, water, and brine. The solvent was evaporated in vacuo, and the crude product was purified by flash chromatography on silica gel to afford 2-(3-(t-butoxycarbonylamino)methylphenyl)-3-((1-(benzyloxycarbonyl)amino-2-methylpropyl)(ethoxy)phosphinoyl)propanoic acid methyl ester (10.7 g, 18.1 mmol, 81%) as white solid.

reactant | 1-(benzyloxycarbonylamino)-2-methylpropyl-phosphonous acid ethyl ester | 20.7 mmol, 6.2 g | C(C)OP(O)C(C(C)C)NC(=O)OCC1=CC=CC=C1 | C14H22NO4P
reactant | DIEA | 47.5 mmol, 6.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(3-(t-butoxycarbonylamino)methylphenyl)-propenoic acid methyl ester | 23.0 mmol, 6.7 g | COC(C(=C)C1=CC(=CC=C1)CNC(=O)OC(C)(C)C)=O | C16H21NO4
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-(t-butoxycarbonylamino)methylphenyl)-3-((1-(benzyloxycarbonyl)amino-2-methylpropyl)(ethoxy)phosphinoyl)propanoic acid methyl ester | 18.1 mmol, 10.7 g, 81% | COC(C(CP(=O)(OCC)C(C(C)C)NC(=O)OCC1=CC=CC=C1)C1=CC(=CC=C1)CNC(=O)OC(C)(C)C)=O | C30H43N2O8P
